US07582773B2
Step 2: Synthesis of 1,3-Dibenzyl-5-bromo-2-phenyl-1H-indole.
The desired product was prepared using a procedure similar to step 2 of example 3. Thus, 3-benzyl-5-bromo-2-phenyl-1H-indole (1.811 g, 5 mmol) was reacted with k-t-butoxide (0.589 g, 5.25 mmol) and benzyl bromide (0.901 g, 5.25 mmol) in DMF (20 ml) to give the product (1.932 g, 4.271 mmol, 85%) as a white solid, mp 155-157° C. 1H NMR (DMSO-d6) δ 3.99 (s, 2H), 5.32 (s, 2H), 6.82 (d, J=7.2 Hz, 2H), 7.07 (d, J=7.3 Hz, 2H), 7.09-7.23 (m, 7H), 7.34-7.39 (m, 3H), 7.43-7.49 (m, 3H), 7.53 (d, J=1.8 Hz, 1H); [ESI(+)], m/z 453/455 (M+H)+.

reactant | 3-benzyl-5-bromo-2-phenyl-1H-indole | 5 mmol, 1.811 g | C(C1=CC=CC=C1)C1=C(NC2=CC=C(C=C12)Br)C1=CC=CC=C1 | C21H16BrN
reactant | benzyl bromide | 5.25 mmol, 0.901 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1,3-Dibenzyl-5-bromo-2-phenyl-1H-indole | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Br)CC1=CC=CC=C1)C1=CC=CC=C1 | C28H22BrN
